US07582629B2
4-{[4-(Difluoromethoxy)phenyl]amino}-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 4-chloro-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 4-(difluoromethoxy)aniline in a similar manner as described for Examples 9 and 13. 1H NMR (400 MHz, CD3CN): δ 3.38 (s, 3H), 3.72 (t, 2H), 3.91 (t, 2H), 6.57 (t, 1H), 6.74-6.79 (m, 2H), 6.81-6.86 (m, 2H), 7.10-7.20 (m, 4H), 7.25-7.30 (m, 1H), 7.80 (bs, 1H); Mass Spectrum: M+H+ 425.

reactant | 4-chloro-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CCOC)=O | C12H12ClNO4S
reactant | 4-(difluoromethoxy)aniline | FC(OC1=CC=C(N)C=C1)F | C7H7F2NO
product | 4-{[4-(Difluoromethoxy)phenyl]amino}-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide | FC(OC1=CC=C(C=C1)NC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CCOC)=O)F | C19H18F2N2O5S
